* source 3PHASE CIRCUIT
V_VSa         N00214 0  
+SIN 0 89.81 60 0 0 0
V_VSc         N00271 0  
+SIN 0 89.81 60 0 0 +120deg
V_VSb         N00812 0  
+SIN 0 89.81 60 0 0 -120deg
L_LSynchB         N00812 N07164  4.1484mH  
L_LSynchA         N00214 N20729  4.1484mH  
L_LSynchC         N00271 N07168  4.1484mH  
R_RLine         N04779 N01314  1 TC=0,0 
L_LLine         N01314 N05645  10mH  
C_half_CLine         N07258 N04779  50000uF  TC=0,0 
C_half_CLine2         N07258 N05645  50uF  TC=0,0 
D_D9         N07258 N07164 D1N1190 
D_D10         N07168 N04779 D1N1190 
D_D11         N07258 N07168 D1N1190 
D_D12         N07164 N04779 D1N1190 
D_D13         N07160 N04779 D1N1190 
D_D14         N07258 N07160 D1N1190 
X_S1    N08900 0 N05645 N09428 SCHEMATIC1_S1 
V_V1         N08900 0  
+PULSE 0 1 1u 1u 1u 8.33ms 16.66ms
D_D15         N09428 N05645 D1N1190 
V_V2         N10017 0  
+PULSE 0 1 8.33ms 1u 1u 8.33ms 16.66ms
X_S2    N10017 0 N09428 N07258 SCHEMATIC1_S2 
D_D16         N07258 N09428 D1N1190 
X_S4    N11336 0 N11234 N07258 SCHEMATIC1_S4 
D_D17         N11234 N05645 D1N1190 
V_V4         N11336 0  
+PULSE 0 1 13.88ms 1u 1u 8.33ms 16.66ms
V_V3         N11172 0  
+PULSE 0 1 5.55ms 1u 1u 8.33ms 16.66ms
X_S3    N11172 0 N05645 N11234 SCHEMATIC1_S3 
D_D18         N07258 N11234 D1N1190 
D_D20         N07258 N11916 D1N1190 
X_S6    N12018 0 N11916 N07258 SCHEMATIC1_S6 
V_V5         N11854 0  
+PULSE 0 1 11.1ms 1u 1u 8.33ms 16.66ms
X_S5    N11854 0 N05645 N11916 SCHEMATIC1_S5 
D_D19         N11916 N05645 D1N1190 
V_V6         N12018 0  
+PULSE 0 1 19.43ms 1u 1u 8.33ms 16.66ms
R_RLoadA         0 N09428  5 TC=0,0 
R_RLoadB         N11234 0  5 TC=0,0 
R_RLoadC         0 N11916  5 TC=0,0 
C_C2         0 N07164  0.000005u  TC=0,0 
C_C3         0 N07168  0.000005u  TC=0,0 
C_C4         0 N09428  5m  TC=0,0 
L_L1         0 N09428  1.4m  
C_C5         0 N07160  5m  TC=0,0 
L_L2         N07160 0  1.4m  
R_R1         N20729 N07160  0.1 TC=0,0 

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S1

.subckt SCHEMATIC1_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S2

.subckt SCHEMATIC1_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S4

.subckt SCHEMATIC1_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S3

.subckt SCHEMATIC1_S6 1 2 3 4  
S_S6         3 4 1 2 _S6
RS_S6         1 2 1G
.MODEL         _S6 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S6

.subckt SCHEMATIC1_S5 1 2 3 4  
S_S5         3 4 1 2 _S5
RS_S5         1 2 1G
.MODEL         _S5 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.ends SCHEMATIC1_S5
